US07632829B2
A) (rac)-3-Hydroxymethyl-piperidin-4-ol hydrochloride 1:1 diast. Mixture
A solution of 1 g (4.52 mmol) (rac)-1-benzyl-3-hydroxymethyl-piperidin-4-ol (ca 1:1 diast mixture, Synthesis (1999), 11, 1937-1943) in 25 ml of MeOH was treated with a solution of HCl in dioxane (1.24 ml, 4 M in dioxane, 4.97 mmol) and 95 mg of Pd(OH)2/C (20%) and was stirred over H2-atmosphere for 16 h. After filtration, new catalyst was added (95 mg of Pd(OH)2/C (20%)) and stirred over H2-atmosphere for 2 days. After filtration, the solution was evaporated under reduced pressure to yield 0.66 g (86%) of the title compound as a ca 1:1 cis/trans mixture, MS: 132.3 (MH+).

reactant | (rac)-1-benzyl-3-hydroxymethyl-piperidin-4-ol | 4.52 mmol, 1 g | C(C1=CC=CC=C1)N1CC(C(CC1)O)CO | C13H19NO2
reactant | HCl | Cl | ClH
reactant | dioxane | 4.97 mmol, 4 M, 1.24 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 25 ml | CO | CH4O
catalyst | Pd(OH)2/C | 95 mg | [OH-].[OH-].[Pd+2]
product | (rac)-3-Hydroxymethyl-piperidin-4-ol hydrochloride | 0.66 g, 86% | Cl.OCC1CNCCC1O | InChI=1S/C6H13NO2.ClH/c8-4-5-3-7-2-1-6(5)9;/h5-9H,1-4H2;1H
